US07432258B2
1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine (6.0 g of 50% purity, 10.5 mmol) was dissolved in 30 mL of anhydrous DMF and treated with N-(3,4-dichlorophenyl)-N-[2-(methyloxy)ethyl]glycine, lithium salt (3.0 g, 10.5 mmol), triethyl amine (2.9 mL, 21.0 mmol), and (1H-1,2,3-benzotriazol-1-yloxy) [tris(dimethylamino)]phosphonium hexafluorophosphate (BOP Reagent, 5.6 g, 12.6 mmol). The reaction mixture was stirred for 2 hours at room temperature, after which time HPLC (Eclipse XDB-C18, 4.6×250 mm, 5 micron, 1-99% CH3CN/H2O with 0.1% trifluoroacetic acid) showed that the reaction was complete. The reaction mixture was treated with 50 mL of 50% saturated aqueous sodium bicarbonate solution and stirred for 30 minutes. The mixture was poured into 100 mL of water and 300 mL of a 1:1 ether/ethyl acetate mixture. The layers were separated and the organic phase was washed with 50% saturated aqueous sodium bicarbonate solution (2×300 mL), 1M HCl (1×300 mL), 50% saturated aqueous sodium bicarbonate solution (1×300 mL), saturated NaCl (1×200 mL), dried over magnesium sulphate, filtered, and concentrated to an orange foam. The compound was adsorbed onto approximately 30 g of silica gel and purified by column chromatography (300 g silica gel 40 um, 20 minute isocratic flush with ethyl acetate followed by gradient elution from 0% MeOH/100% CH2Cl2 to 30% MeOH/70% CH2Cl2 over 90 minutes) to give N1-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1-methyl-N2-[2-(methyloxy)ethyl]glycinamide (3.85 g, 7.1 mmol, 67%) as a yellow glass. MS (ES) m/e 542, 544 [M+H]+.

reactant | 1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine | 10.5 mmol, 6.0 g | BrC1=CC=C(C=C1)C(CN1CCCC1)NC | C13H19BrN2
reactant | N-(3,4-dichlorophenyl)-N-[2-(methyloxy)ethyl]glycine | ClC=1C=C(C=CC1Cl)N(CC(=O)O)CCOC | C11H13Cl2NO3
reactant | lithium | 10.5 mmol, 3.0 g | [Li] | Li
reactant | triethyl amine | 21.0 mmol, 2.9 mL | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy) [tris(dimethylamino)]phosphonium hexafluorophosphate | 12.6 mmol, 5.6 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ether ethyl acetate | 300 mL | CCOCC.C(C)(=O)OCC
solvent | water | 100 mL | O | H2O
solvent | CH3CN H2O | CC#N.O
product | N1-[1-(4-bromophenyl)-2-(1-pyrrolidinyl)ethyl]-N2-(3,4-dichlorophenyl)-N1-methyl-N2-[2-(methyloxy)ethyl]glycinamide | 7.1 mmol, 3.85 g, 67% | BrC1=CC=C(C=C1)C(CN1CCCC1)N(C(CN(CCOC)C1=CC(=C(C=C1)Cl)Cl)=O)C | C24H30BrCl2N3O2
